US05602013
The process of claim 1 in which D-glucose is aminated to N-3-carboxypropyl glucamine which in turn is oxidized to produce 6-(3-carboxypropyl)amino-6-deoxy-α-L-sorbofuranose which is reduced to produce N-(3-carboxypropyl)-1-deoxynojirimycin.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | N-3-carboxypropyl glucamine | C(=O)(O)CCCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C10H21NO7
product | 6-(3-carboxypropyl)amino-6-deoxy-α-L-sorbofuranose | C(=O)(O)CCCNC[C@H]1[C@H]([C@@H]([C@](CO)(O)O1)O)O | C10H19NO7
